US06207655B1
Synthesis of 2-[bis(diethoxyphosphoryl)methyl]maleic Acid Dimethyl Ester
In a suspension of 1.33 g of sodium hydride (60% in oil) in 120 ml of toluene are added dropwise 10 g of bis(diethoxyphosphoryl)methane dissolved in 20 ml of toluene. The reaction mixture is kept at room temperature under stirring for 1 hour, then it is cooled to 0° C. and added dropwise with a solution of dimethyl acetylenedicarboxylate (5.17 g) in 20 ml of toluene. After 1 hour under stirring the reaction mixture is added with ethyl acetate until dissolution of the formed gummy solid occurs and it is washed firstly with 1 N hydrochloric acid (30 ml) then with water (2×30 ml). The organic phase is dried over sodium sulfate and the solvent is evaporated under reduced pressure, to give a residue (12.9 g) which, after purification by silica gel chromatography (300 g; eluent:petroleum ether/isopropanol 7:3) furnishes 9.6 g of pure product.

reactant | sodium hydride | 1.33 g | [H-].[Na+]
reactant | bis(diethoxyphosphoryl)methane | 10 g | C(C)OP(=O)(OCC)CP(=O)(OCC)OCC | C9H22O6P2
reactant | dimethyl acetylenedicarboxylate | 5.17 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[bis(diethoxyphosphoryl)methyl]maleic Acid Dimethyl Ester | 12.9 g | COC(\C(=C/C(=O)OC)\C(P(=O)(OCC)OCC)P(=O)(OCC)OCC)=O | C15H28O10P2
